US08685969B2
2. 6-(3-(tert-Butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indole
A homogeneous, colorless solution of 1-(1H-indol-6-yl)pyrrolidin-3-ol (0.1036 g, 0.512 mmol), tert-butylchlorodimethylsilane (0.093 g, 0.615 mmol) and imidazole (0.087 g, 1.281 mmol) in DMF (2.56 mL) was stirred overnight. The mixture was diluted with EtOAc (75 mL), washed with water (4×25 mL) and brine (25 mL) successively, dried over MgSO4, and concentrated in vacuo. The residue was triturated with hexanes to give the desired product (0.1600 g, 0.470 mmol, 92%).

reactant | 1-(1H-indol-6-yl)pyrrolidin-3-ol | 0.512 mmol, 0.1036 g | N1C=CC2=CC=C(C=C12)N1CC(CC1)O | C12H14N2O
reactant | tert-butylchlorodimethylsilane | 0.615 mmol, 0.093 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 1.281 mmol, 0.087 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 2.56 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 6-(3-(tert-Butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indole | 0.470 mmol, 0.1600 g, 92% | [Si](C)(C)(C(C)(C)C)OC1CN(CC1)C1=CC=C2C=CNC2=C1 | C18H28N2OSi
